### PR TITLE
Prove ev_limit_iff_log_ev_limit

### LINKED ISSUE #26: Lemma 2.9 (log-ev-limit): `ev_limit_iff_log_ev_limit`
Prove `ev_limit_iff_log_ev_limit` (Lemma 2.9 _log-ev-limit_).

### PR DESCRIPTION
**Pull request by vainiovano**
I wonder if I'm missing something here, but the case `log 0` feels pretty annoying to handle. `Filter.Tendsto.of_tendsto_comp` seems a bit overkill, but it's the best I could come up with.

Closes #26

### CODE REVIEW

File: ExtremeValueProject/LimitRelationManipulation.lean [hunk 1]
```diff
@@ -263,7 +263,31 @@ lemma ev_limit_iff_log_ev_limit {F G : CumulativeDistributionFunction}
...
+               CumulativeDistributionFunction.apply_nonneg] at h
+    rw [← Function.comp_def] at h
+    apply Filter.Tendsto.of_tendsto_comp h
+    intro s hs
+    use s ∩ Iio 1, inter_mem hs (Iio_mem_nhds hGx.right)
+    intro a ha
+    by_cases h : a = 0
+    · simp [f, h] at ha
+    · have : a ∈ s ∧ a < 1 := by simpa [f, h] using ha
+      exact this.left
```
Comment (kkytola) [inline ExtremeValueProject/LimitRelationManipulation.lean:290]: This is indeed annoying to handle, because of the junk value `log 0`.

The alternative approach below rests more directly on the observation `obs` that eventually neither of the cases `log 0` nor `log 1` appear, by virtue of the assumed convergence `h`. It is a few lines shorter, and I'd argue that it is structurally quite natural (the "eventually" argument is seen sufficient by `Tendsto.congr'`). But ugly case analyses remain --- I feel they are inevitable, because ruling out junk values must somehow be done.

```suggestion
    apply Filter.Tendsto.comp (Continuous.tendsto Real.continuous_exp _) at h
    simp only [← Real.log_pow, Real.exp_log hGx.left] at h
    have obs : ∀ᶠ n in atTop, Real.exp (n * Real.log ((As n • F) x)) = ((As n • F) x) ^ n := by
      filter_upwards [h (Ioo_mem_nhds hGx.1 hGx.2), Ioi_mem_atTop 0] with n hn n_pos
      rw [mem_preimage, Function.comp_apply, Real.exp_log] at hn
      rw [← Real.log_pow, Real.exp_log (pow_pos ?_ _)]
      · apply lt_of_le_of_ne ((As n • F).apply_nonneg x)
        have n_ne_zero : n ≠ 0 := ((show 0 < n from n_pos).ne).symm
        exact ((pow_ne_zero_iff (a := (As n • F) x) n_ne_zero).mp hn.1.ne.symm).symm
      · apply pow_pos
        by_contra con
        simp [le_antisymm (not_lt.mp con) ((As n • F).apply_nonneg x)] at hn
    exact Tendsto.congr' obs (by simpa [Real.log_pow] using h)
```
